US06632826B1
A solution of 4-benzyl-5-(6-tert-butylcarbamoyl-cyclohex-3-enylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (100 mg) in ethanol (20 ml) was hydrogenated over 10% palladium on carbon for 3 hours at atmospheric pressure and ambient temperature. The catalyst was removed by filtration and the filtrate evaporated to give 4-benzyl-5-(2-tert-butylcarbamoyl-cyclohexylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (100 mg, 100%) Mass spectrum 487 [M+H]+.

reactant | 4-benzyl-5-(6-tert-butylcarbamoyl-cyclohex-3-enylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 100 mg | C(C)(C)(C)OC(=O)N1C(OC(C1CC1=CC=CC=C1)CC1CC=CCC1C(NC(C)(C)C)=O)(C)C | C29H44N2O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-benzyl-5-(2-tert-butylcarbamoyl-cyclohexylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 100 mg, 100% | C(C)(C)(C)OC(=O)N1C(OC(C1CC1=CC=CC=C1)CC1C(CCCC1)C(NC(C)(C)C)=O)(C)C | C29H46N2O4
